US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide
A mixed solution of bis(2,2,2-trichloroethyl)pyridin-3-ylimidodicarbonate (271 mg, 0.610 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.211 ml, 1.22 mmol) in dimethyl sulfoxide (2 ml) was stirred at 70° C. for 3 hours and further stirred at 80° C. for 1 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 106 mg (47.5%) of the desired product as a solid.

reactant | bis(2,2,2-trichloroethyl)pyridin-3-ylimidodicarbonate | 0.610 mmol, 271 mg | ClC(COC(=O)N(C(=O)OCC(Cl)(Cl)Cl)C=1C=NC=CC1)(Cl)Cl | C11H8Cl6N2O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.22 mmol, 0.211 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide | 106 mg, 47.5% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C18H18N6OS
